US06300334B1
c) 6-(Chloromethyl)-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Aqueous formaldehyde (37%, 2.5 ml) was added to a stirred solution of 3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (1.0 g) in concentrated hydrochloric acid (5 ml) at 0° C. The mixture was saturated with hydrogen chloride gas and stirred at 0° C. for 3 hours and then at room temperature for 3 days. Ethyl acetate (100 ml) was added, the mixture was washed with water (100 ml) and then with saturated aqueous sodium bicarbonate solution (100 ml), then dried over anhydrous magnesium sulfate, filtered and evaporated to give the subtitle compound (1.1 g).

reactant | formaldehyde | 2.5 ml | C=O | CH2O
reactant | 3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.0 g | CN1C(N(C2=C(C1=O)C=CS2)C(C)C)=O | C10H12N2O2S
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 6-(Chloromethyl)-3-methyl-1-(1-methylethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.1 g | ClCC1=CC2=C(N(C(N(C2=O)C)=O)C(C)C)S1 | C11H13ClN2O2S
